US04400509
1.52 ml of hexamethyldisilazane (7.3 mmoles) were added to a refluxing mixture of 0.49 (4.86 mmoles) of 5-mercapto-1,2,3-(1H)-triazole, 5 mg (0.207 mmole) of saccharin, 10 ml of ethyl acetate and 15 ml of dichloromethane and the ammonia evolved was titrated with 1 N H2SO4 by the method described in Example 1A. It was found that 2 equivalents (4.9 mmoles) were evolved after refluxing for 30 minutes. Volatile materials were evaporated in vacuo to obtain 1.19 g (96%) of 1-trimethylsilyl-5-trimethylsilylthio-1,2,3-triazole NMR Spectrum was taken in carbon tetrachloride solution: Δ0.31 (9H); 0.48 (9H); 7.46 (1H).

reactant | hexamethyldisilazane | 7.3 mmoles, 1.52 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 5-mercapto-1,2,3-(1H)-triazole | SC1=CN=NN1 | C2H3N3S
reactant | saccharin | 0.207 mmole, 5 mg | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
reactant | ammonia | N | H3N
reactant | H2SO4 | 1 N | OS(=O)(=O)O | H2O4S
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 1-trimethylsilyl-5-trimethylsilylthio-1,2,3-triazole | 1.19 g, 96% | C[Si](N1N=NC=C1S[Si](C)(C)C)(C)C | C8H19N3SSi2
